US06489318B1
Sodium (8S,9R)-10-((E)-ethylidene)-11-oxo-1-azatricyclo-[7.2.0.03,8]undec-2-ene-2-carboxylate
Allyl (8S,9R)-10-((E)-ethylidene)-11-oxo-1-azatricyclo-[7.2.0.03,8]undec-2-ene-2-carboxylate (73 mg; 0.267 mmole) prepared according to the process disclosed in Example 11a was dissolved in a mixture (0.5 ml) of tetrahydrofuran/dichloromethane 1:1 (v/v). To the obtained mixture there were added first a solution of triphenylphosphine (24 mg; 0.08 mmole) and then a solution of sodium 2-ethylhexanoate (46.8 mg; 0.28 mmole) and tetrakis(triphenylphosphine)palladium(0) (32 mg; 0.024 mmole) (prepared according to the process disclosed in D. R.Coulson, Inorganic Synthesis 13, 121 (1972)) in a mixture (2 ml) of tetrahydrofuran/dichloromethane (1:1). The obtained solution was stirred for 30 minutes at room temperature. To the obtained mixture diethyl ether (4 ml) was added and it was cooled to the temperature of 0° C. The separated product was filtered off, washed with an anhydrous mixture of diethyl ether/tetrahydrofuran and dried in vacuo. The title compound (32 mg; 47%) was obtained in the form of brownish crystals and with m.p. 222-225° C. with decomposition (DMF-diethyl ether).

reactant | Allyl (8S,9R)-10-((E)-ethylidene)-11-oxo-1-azatricyclo-[7.2.0.03,8]undec-2-ene-2-carboxylate | 0.267 mmole, 73 mg | C(/C)=C\1/[C@H]2[C@H]3CCCCC3=C(N2C1=O)C(=O)OCC=C | C16H19NO3
reactant | triphenylphosphine | 0.08 mmole, 24 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium 2-ethylhexanoate | 0.28 mmole, 46.8 mg | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | diethyl ether | 4 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran dichloromethane | 0.5 ml | O1CCCC1.ClCCl
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.024 mmole, 32 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran dichloromethane | 2 ml | O1CCCC1.ClCCl
product | Sodium (8S,9R)-10-((E)-ethylidene)-11-oxo-1-azatricyclo-[7.2.0.03,8]undec-2-ene-2-carboxylate | 32 mg, 47% | C(/C)=C\1/[C@H]2[C@H]3CCCCC3=C(N2C1=O)C(=O)[O-].[Na+] | InChI=1S/C13H15NO3.Na/c1-2-7-10-8-5-3-4-6-9(8)11(13(16)17)14(10)12(7)15;/h2,8,10H,3-6H2,1H3,(H,16,17);/q;+1/p-1/b7-2+;/t8-,10-;/m0./s1
